US06376664B1
4-Bromomethyl-2,1,3-benzothiadiazole
A mixture of 4-methyl-2,1,3-benzothiadiazole (6.0 g, 40 mmol) and N-bromosuccinimide (7.12 g, 40 mmol) in carbon tetrachloride (80 mL) was refluxed under irradiation with a sunlamp for 8 hours. After cooling with ice-water bath, the succinimide was filtered off and the filtrate was washed with saturated Na2S2O3, brine, dried over Na2SO4. After removal of solvent pure 4-bromomethyl-2,1,3-benzothiadiazole (8.8 g, 96%) was obtained as a light-yellow crystalline powder. Rf=0.45 (hexane/ethyl acetate=4:1); 1H NMR (200 MHz, CDCl3) δ5.00 (s, 2H), 7.57 (m, 2H), 7.98 (d, J1=8.5 Hz, J2=1.2 Hz, 1H); HRMS: Calcd. for C7H5BrN2S 227.9357, found 227.9395.

reactant | 4-methyl-2,1,3-benzothiadiazole | 40 mmol, 6.0 g | CC1=CC=CC2=NSN=C21 | C7H6N2S
reactant | N-bromosuccinimide | 40 mmol, 7.12 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | carbon tetrachloride | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromomethyl-2,1,3-benzothiadiazole | BrCC1=CC=CC2=NSN=C21 | C7H5BrN2S
